US07666888B2
3-(Trifluoromethyl)-1-({5-[4-(trifluoromethyl)phenyl]isoxazol-4-yl}carbonyl)piperidine
The title compound was prepared from 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid (12.9 mg, 0.050 mmol) and DL-3-(trifluoromethyl)piperidine (9.2 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (11.8 mg). Calcd for C17H14F6N2O2: 392.0959, found 392.0959.

reactant | 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 12.9 mg | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)O)(F)F | C11H6F3NO3
reactant | DL-3-(trifluoromethyl)piperidine | 0.060 mmol, 9.2 mg | C1CC(CNC1)C(F)(F)F | C6H10F3N
product | 3-(Trifluoromethyl)-1-({5-[4-(trifluoromethyl)phenyl]isoxazol-4-yl}carbonyl)piperidine | FC(C1CN(CCC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C(F)(F)F)(F)F | C17H14F6N2O2
